US09260429B2
6-chloro-2-methyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole (75 mg, 0.34 mmol) was dissolved in DMF (5 mL). To this solution was added CuI (6 mg, 0.034 mmol), L-proline (8 mg, 0.068 mmol), K3PO4 (145 mg, 0.68 mmol). The reaction mixture was stirred for 10 min at room temperature followed by addition of 4-(1-bromoprop-1-en-2-yl)-2-fluoro-1-methoxybenzene (100 mg, 0.408 mmol). The reaction mixture was heated at 80° C. overnight. Solvent was evaporated under reduced pressure, the residue was diluted with brine and extracted with ethyl acetate. Organic layer was dried over Na2SO4, and concentrated under reduced pressure. The crude product was purified by silica gel chromatography to obtain 40 mg of 6-chloro-9-(2-(3-fluoro-4-methoxyphenyl)prop-1-enyl)-2-methyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole. 1H NMR (DMSO) OXALATE SALT 7.60 (m, 2H), 7.42 (d, 1H), 7.25 (d, 2H), 7.18 (t, 1H), 7.10 (s, 1H), 4.10 (m, 2H), 3.90 (s, 3H), 3.50 (m, 2H), 2.95 (m, 2H), 2.78 (s, 3H), 1.82 (s, 3H).

reactant | 6-chloro-2-methyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole | 0.34 mmol, 75 mg | ClC=1C=C2C3=C(NC2=CC1)CN(CC3)C | C12H13ClN2
reactant | L-proline | 0.068 mmol, 8 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | K3PO4 | 0.68 mmol, 145 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 4-(1-bromoprop-1-en-2-yl)-2-fluoro-1-methoxybenzene | 0.408 mmol, 100 mg | BrC=C(C)C1=CC(=C(C=C1)OC)F | C10H10BrFO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 0.034 mmol, 6 mg | [Cu]I
product | 6-chloro-9-(2-(3-fluoro-4-methoxyphenyl)prop-1-enyl)-2-methyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole | 40 mg | ClC=1C=C2C3=C(N(C2=CC1)C=C(C)C1=CC(=C(C=C1)OC)F)CN(CC3)C | C22H22ClFN2O
